data/mechanism_extracts/GreenChem/10.1039_d5gc03120f.json
{"doi": "10.1039_d5gc03120f", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical 1,4-selective dialkoxylation of 1,3-dienes with alcohols in an undivided cell to give (E)-1,4-diether alkenes", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of methoxide (MeO-) to methoxy radical (MeO•); subsequent anodic oxidation of allyl/benzyl radical intermediate II to allyl cation III", "key_intermediates": [{"name": "methoxy radical (MeO•)", "smiles": "[O]C", "role": "reactive"}, {"name": "primary allyl radical I from MeO• addition to terminal alkene of diene", "smiles": null, "role": "transient"}, {"name": "rearranged (E)-configured benzylic/allyl radical II (1,4-addition radical)", "smiles": null, "role": "reactive"}, {"name": "allyl/benzyl cation III (after one-electron oxidation of II)", "smiles": null, "role": "reactive"}, {"name": "1,2-addition radical II' (less stable regioisomer)", "smiles": null, "role": "off_pathway"}, {"name": "(E)-1,4-dimethoxy alkene product 2a", "smiles": "COC(c1ccccc1)/C=C/COC", "role": "reactive"}], "electron_flow": "Anode oxidizes MeO- to MeO•, which adds to the terminal carbon of the 1,3-diene to give an allyl radical that rearranges to the more stable (E)-benzylic radical II; II is further oxidized at the anode to allyl cation III, which is trapped by MeOH/MeO- to deliver the 1,4-diether (path A, favored over direct radical-radical coupling of II with MeO•, path B).", "rate_determining_step": "Anodic ionization of radical II to cation III (computed ionization energy 107.21 kcal/mol); overall radical addition/rearrangement step is strongly exergonic (-31.11 kcal/mol)", "probe_reagents": [{"name": "BHT (added at t=0, 3.0 eq)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely inhibited; BHT-OMe adduct isolated in 39% yield, confirming generation of MeO• radical"}, {"name": "BHT (added after 2 h, 3.0 eq)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "intermediate_trap", "observation": "Mono-methoxylation BHT-trapped radical intermediate detected by HRMS, supporting carbon radical intermediate II"}], "evidence_types_used": ["intermediate_trap_BHT", "DFT", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Two pathways considered: path A (oxidation of radical II to cation III, then MeO- capture; methoxylation step exergonic by 58.28 kcal/mol, favored) vs path B (direct radical-radical coupling of II with MeO•). Path A favored thermodynamically and by suppression of homocoupling via steric effects. DFT shows (E)-II more stable than (Z)-II by 3.82 kcal/mol and 1,4-radical II more stable than 1,2-radical II' by 2.80 kcal/mol in MeOH complex state, rationalizing E- and 1,4-selectivity."}
